US07872009B2
Step 3: 4-azido-6-methoxy-2,2-dimethyl-3,4-dihydronaphthalen-1(2H)-one
4-Bromo-6-methoxy-2,2-dimethyl-3,4-dihydronaphthalen-1(2H)-one (3.9 g, 14 mmol) was added to DMF (10 mL) followed by azidosodium (3.6 g, 55 mmol). The mixture was heated to 60° C. overnight. The reaction was cooled to RT and quenched with water (25 mL). The aqueous layer was extracted with Et2O (3×100 mL). The combined organic layers were washed with brine, dried over MgSO4 and filtered. The solvent was evaporated and the residue was purified by column chromatography (0-50% EtOAc/Hexane to provide the title compound as a white solid (3.05 g, 90% yield). MS m/z: 268.2 (M+Na).

reactant | 4-Bromo-6-methoxy-2,2-dimethyl-3,4-dihydronaphthalen-1(2H)-one | 14 mmol, 3.9 g | BrC1CC(C(C2=CC=C(C=C12)OC)=O)(C)C | C13H15BrO2
reactant | azidosodium | 55 mmol, 3.6 g | N(=[N+]=[N-])[Na]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-azido-6-methoxy-2,2-dimethyl-3,4-dihydronaphthalen-1(2H)-one | 3.05 g, 90% yield | N(=[N+]=[N-])C1CC(C(C2=CC=C(C=C12)OC)=O)(C)C | C13H15N3O2
